US09331290B2
6-tert-Butyl-5,6b,11-triazabenzo[a]fluorene (L1)
Preparation analogous to S. Sharma et al., J. Comb. Chem. 2007, 9, 783. A mixture of 20.9 g (100 mmol) of 2-imidazo[1,2-a]pyridin-2-ylphenylamine [127219-06-1], 42.1 g (500 mmol) of 2,2-dimethylpropanal [630-19-3] and 1.9 g (10 mmol) of p-toluenesulfonic acid hydrate in 500 ml of xylene is heated under reflux for 16 h, during which the water formed is removed by azeotropic distillation and a gentle stream of air is passed into the solution. After cooling, the solvent is removed in vacuo, the residue is taken up in 1000 ml of ethyl acetate, washed twice with 500 ml of water each time, once with 500 ml of saturated sodium chloride solution and dried over magnesium sulfate. After recrystallisation from ethanol twice, the solid is freed from low-boiling and non-volatile secondary components by sublimation (p about 1×10−5 mbar, T about 180° C.). Yield: 9.1 g (33 mmol), 33%, purity: about 99.5% (NMR).

reactant | 2-imidazo[1,2-a]pyridin-2-ylphenylamine | 100 mmol, 20.9 g | N=1C(=CN2C1C=CC=C2)C2=C(C=CC=C2)N | C13H11N3
reactant | 2,2-dimethylpropanal | 500 mmol, 42.1 g | CC(C=O)(C)C | C5H10O
reactant | p-toluenesulfonic acid hydrate | 10 mmol, 1.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-tert-Butyl-5,6b,11-triazabenzo[a]fluorene | C(C)(C)(C)C=1N=C2C(=C3N=C4C=CC=CN4C13)C=CC=C2 | C18H17N3
